Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
pharmacologic stress echocardiogram

 
History of Present Illness:
___ with history of AAA, c/b aneurysm s/p multiple coils. On 
___ had vascular procedure, embolization of proximal right 
internal iliac artery w/ placement of a Gore extension limb in 
the right common iliac artery. Successful per op note. Pt was 
sent home w/ instructions that he could resume physical activity 
(walking, going up/down stairs) w/ gradual increase in exersise 
starting one week out. Pt was taking regular walks, walked 
slightly further than usual on day prior to presentation, became 
SOB. Otherwise felt well; went home, took nap. His PCP happened 
to call that day to check in on him and the pt mentioned his 
sxs. PCP advised ___ clinic visit, pt went the next day and was 
sent to ED presumably ___ concern for DOE as e/o surgical 
complication vs anginal equivalent. No CP, no orthopnea, no F/C. 
 
PE: VSS, high ___ on RA, no tachycardia, lungs CTA b/l  
In the ED initial vitals were T 98.1, HR 56, BP 128/64, RR 20, 
O2 98% RA. Labs were significant for neg trop X 2, cr 1.3 ___ 
0.9), WBC 7.4 w/ 8.5% eos, H/H 12.8/ 39.5 (baseline hg 14.1, but 
current value stable from ___, WBC 7.4 w/ 8.5% eos. CTA chest 
w/ no PE.  
Vascular surgery saw pt in the ED, felt pt had no active 
vascular issues. ED res discussed pt w/ BI cards attending Dr. 
___ evaluated the patient and d/w ___ Dr. ___. 
Pt was admitted to Dr. ___ stress echo in the morning.  
Patient was given at liter bolus of NS and transferred to the 
floor.  

 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: 
- CABG x4, ___  
- Appendectomy in ___  
- Hemorrhoid surgery  
- Lipoma excision ___  
- Recurrent left inguinal hernia repair ___  
- EVAR ___, redo EVAR ___ c/b recurrent endoleak s/p open 
repair with aorto-bi-iliac bypass graft ___  
EVAR with attempts to coil embolization  

 
Social History:
___
Family History:
- HTN
- HLD
- CAD
- Cancer: breast, lung
 
Physical Exam:
On Admission:
===================
Vitals - T: 97.9, BP: 147/69, HR: RR: 02 sat:  
GENERAL: NAD  
HEENT: AT/NC, EOMI  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

On Discharge:
===================
Vitals - T: 97.9 (Tm 98.3), BP: 132/64, HR: 61 RR: 18 02 sat: 
99% RA  
GENERAL: NAD, resting in bed  
HEENT: AT/NC, EOMI, MMM, no scleral icterus  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, somewhat 
tense,no rebound/guarding  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, 2+ PTs, radials bilaterally  
NEURO: CN II-XII intact, A&Ox3  
SKIN: warm and well perfused, R hand with healing abrasion, no 
rashes  

 
Pertinent Results:
___ 07:00PM   cTropnT-<0.01
___ 12:27PM   GLUCOSE-97 UREA N-23* CREAT-1.3* SODIUM-137 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-28 ANION GAP-13
___ 12:27PM   WBC-7.4 RBC-3.86* HGB-12.8* HCT-39.5* 
MCV-102* MCH-33.2* MCHC-32.5 RDW-14.4
___ 12:27PM   NEUTS-62.1 ___ MONOS-7.3 EOS-8.5* 
BASOS-0.9

___ - pharm stress echo:
IMPRESSION: 1.) Fixed myocardial perfusion defected of the 
distal anterior wall, distal septum and cardiac apex. 2.) 
Akinesis of the apex and distal septum. LVEF = 60%. 
IMPRESSION: 1.) Fixed myocardial perfusion defected of the 
distal anterior wall, distal septum and cardiac apex. 2.) 
Akinesis of the apex and distal septum. LVEF = 60%. 

ECHO: IMPRESSION: Mild symmetric left ventricular hypertrophy 
with mild regional and global systolic dysfunction c/w CAD. No 
significant valvular disease. Normal pulmonary artery systolic 
pressure.  

STRESS TEST: IMPRESSION: No anginal-type symptoms or ischemic 
ECG changes. Nuclear report sent separately. 

CTA CHEST:
IMPRESSION: 
1. No evidence of pulmonary embolism to the subsegmental level. 
2. Cholelithiasis with no evidence of cholecystitis. 
3. Partially visualized known aneurysm sac in the upper abdomen. 


 
Brief Hospital Course:
___ yo M w/ history of AAA repair several years ago c/b aneurisms 
requiring multiple coils, most recently s/p embollization of R 
internal iliac on ___, presents w/ DOE during isolated episode 
after walking for 15 minutes.

#DOE. Appears pt may have simply become more SOB due to 
attempting more exercise than usual (mentions walking for 15 
minutes instead of 10 which had been his limit recently) and 
therefore due primarily to deconditioning. Does not appear to be 
ischemic event given no EKG changes and neg trop. Patient 
underwent pharmacologic stress test, which showed no EKG changes 
and patient asymptomatic, and nuclear imaging showed fixed 
myocardial perfusion defected of the distal anterior wall, 
distal septum and cardiac apex and akinesis of the apex and 
distal septum with LVEF = 60%. ECHO showed mild symmetric left 
ventricular hypertrophy with mild regional and global systolic 
dysfunction c/w CAD. No significant valvular disease. Normal 
pulmonary artery systolic pressure. It was felt that the DOE was 
most likely related to deconditioning in the setting of his 
recent procedure.

# Hypertension - patient was started on lisinopril and 
amlodopine was decreased.

TRANSITIONAL ISSUES:

# Assess for resolution of dyspnea symptoms
# Please check electrolytes and increased dose of lisinopril as 
tolerated.  
# Code: Confirmed full   
# Emergency Contact: ___, wife and daughter, 
___. ___, ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin EC 325 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
6. Atenolol 50 mg PO DAILY 
7. Pravastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin EC 325 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
6. Pravastatin 20 mg PO DAILY 
7. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
dyspnea on exertion

Secondary:
coronary artery disease
deconditioning

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking part of your care during your 
recent hospitalization at ___. 
You were admitted for shortness of breath after walking for 15 
minutes. A CT scan in the emergency department did not show any 
evidence of a clot in your lung. A stress test was performed to 
look at your heart which showed no new limitations in blood flow 
to your heart.  An echocardiogram was performed which was 
unchanged. Please continue to take your medications as 
prescribed and follow up with the appointments you have 
scheduled as listed below.

You would benefit from a medication called lisinopril. This 
medication can affect your blood pressure. Please reduce your 
dose of amlodipine. The medication changes are noted on the 
following page.

Again, it was a pleasure taking part of your care. We wish you 
the best!
 
Followup Instructions:
___